US08729102B2
C) 4-[6-(cyclopropylmethoxy)-3-(trifluoromethyl)-2H-indazol-2-yl]phenol
To a solution of methyl ({4-[6-(cyclopropylmethoxy)-3-(trifluoromethyl)-2H-indazol-2-yl]phenoxy}sulfonyl)(difluoro)acetate (365 mg) in methanol (4 mL) was added dropwise 27% sodium methoxide methanol solution (1 mL) at room temperature, and the mixture was stirred for 3 hr. The reaction mixture was neutralized with saturated aqueous ammonium chloride solution, and extracted twice with ethyl acetate. The combined organic layer was washed with saturated brine, and dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate) to give the title compound as a colorless powder (179 mg).

reactant | methyl ({4-[6-(cyclopropylmethoxy)-3-(trifluoromethyl)-2H-indazol-2-yl]phenoxy}sulfonyl)(difluoro)acetate | 365 mg | C1(CC1)COC=1C=CC2=C(N(N=C2C1)C1=CC=C(OS(=O)(=O)C(C(=O)OC)(F)F)C=C1)C(F)(F)F | C21H17F5N2O6S
reactant | sodium methoxide methanol | 1 mL | CO.C[O-].[Na+]
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | methanol | 4 mL | CO | CH4O
product | 4-[6-(cyclopropylmethoxy)-3-(trifluoromethyl)-2H-indazol-2-yl]phenol | 179 mg | C1(CC1)COC=1C=CC2=C(N(N=C2C1)C1=CC=C(C=C1)O)C(F)(F)F | C18H15F3N2O2
